US04372953
1-Methyl-5-(3-mercaptopropyl)thio-1,2,3,4-tetrazole (1.9 g) is dissolved in 1 N aqueous sodium hydroxide (30 ml), and thereto is added dropwise a solution of 5-nitro-2-chloropyridine (1.9 g) in acetone (20 ml) under ice-cooling. After the addition, the mixture is stirred at room temperature for 3 hours. Acetone is distilled off and water is added to the residue. The mixture is extracted with ether, and the ether solution is washed with diluted aqueous sodium hydroxide and saturated aqueous sodium chloride and dried over sodium sulfate. After ether is distilled off, the residue is purified by column chromatography (Kieselgel 60), followed by eluting with n-hexane-ether (4:1) to give 1-methyl-5-[3-(5-nitro-2-pyridyl)thiopropyl]thio-1,2,3,4-tetrazole (1.4 g), pale brown liquid, nD29 =1.6289.

reactant | 1-Methyl-5-(3-mercaptopropyl)thio-1,2,3,4-tetrazole | 1.9 g | CN1N=NN=C1SCCCS | C5H10N4S2
reactant | 5-nitro-2-chloropyridine | 1.9 g | [N+](=O)([O-])C=1C=CC(=NC1)Cl | C5H3ClN2O2
solvent | sodium hydroxide | 1 N, 30 ml | [OH-].[Na+]
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 1-methyl-5-[3-(5-nitro-2-pyridyl)thiopropyl]thio-1,2,3,4-tetrazole | 1.4 g | CN1N=NN=C1SCCCSC1=NC=C(C=C1)[N+](=O)[O-] | C10H12N6O2S2
